US09315458B2
A) methyl 2-hydroxy-5-(4-methoxybenzyl)-3,4-dimethylbenzoate
To a mixture of methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (18.3 g), 1-(chloromethyl)-4-methoxybenzene (9.38 g) and sodium carbonate (12.7 g) in 1,2-dimethoxyethane (255 mL)-water (85.0 mL) was added tetrakis(triphenylphosphine)palladium(0) (3.46 g), and the mixture was stirred overnight at 80° C. under argon atmosphere. To the reaction mixture were added water and ethyl acetate, and the organic layer was separated, washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. To the residue was added a mixed solvent of ethyl acetate-diisopropyl ether, and the solid was collected by filtration to give the title compound (11.12 g). The filtrate was concentrated, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (4.99 g).

reactant | methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 18.3 g | OC1=C(C(=O)OC)C=C(C(=C1C)C)B1OC(C(O1)(C)C)(C)C | C16H23BO5
reactant | 1-(chloromethyl)-4-methoxybenzene | 9.38 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | sodium carbonate | 12.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 85.0 mL | O | H2O
solvent | 1,2-dimethoxyethane | 255 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-hydroxy-5-(4-methoxybenzyl)-3,4-dimethylbenzoate | 11.12 g | OC1=C(C(=O)OC)C=C(C(=C1C)C)CC1=CC=C(C=C1)OC | C18H20O4
